US04146715
A mixture of 2-chloro-9-(2-hydroxyethoxymethyl)adenine (4.4g) and liquid ammonia (40ml) was heated at 120° C. in a bomb for 19 hours. The reaction mixture was removed from the bomb and excess ammonia removed in vacuo. The residue was partitioned between ether and water and the aqueous layer washed twice more with ether and once with chloroform. The aqueous solution was then treated with an excess of a strongly basic ion exchange resin to convert the ammonium chloride to ammonia and evaporated to dryness in vacuo. The residue was dissolved in a minimal amount of ethanol, Florisil (Registered Trade Mark) (10g) added, and the mixture evaporated in dryness. The residue was transferred to a prepared column of Florisil in chloroform and eluted with 5% methanol/95% chloroform (v/v). Fractions (30ml) were collected and examined by TLC (silica gel plates developed in 10% methanol/90% chloroform) for the presence of product. The first 40 fractions contained starting material but no product and were discarded. Succeeding fractions which were found to contain the desired product were combined and evaporated to dryness. The residue was recrystallized from ethanol (with activated charcoal treatment) and from n-propanol to give 2-amino-9-(2-hydroxyethoxymethyl)adenine (0.5g, 12% of theoretical), m.p. 183°-184° C.

reactant | 2-chloro-9-(2-hydroxyethoxymethyl)adenine | 4.4g | ClC1=NC(=C2N=CN(C2=N1)COCCO)N | C8H10ClN5O2
reactant | ammonia | 40ml | N | H3N
product | 2-amino-9-(2-hydroxyethoxymethyl)adenine | 0.5g, 12% | NC1=NC(=C2N=CN(C2=N1)COCCO)N | C8H12N6O2
